US07179823B1
Sodium hydride (60%, oily, 50.0 mg) was added to a solution of ethyl 3-[1-(3-ethoxy-5-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (492 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 15 minutes. 4-Chloromethyl-2-phenylthiazole (262 mg) was added to the mixture, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[1-[3-ethoxy-5-(2-phenyl-4-thiazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate (601 mg, yield: 85%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | Sodium hydride | 50.0 mg | [H-].[Na+]
reactant | ethyl 3-[1-(3-ethoxy-5-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 492 mg | C(C)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C(C1)O | C24H27NO4
reactant | 4-Chloromethyl-2-phenylthiazole | 262 mg | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[1-[3-ethoxy-5-(2-phenyl-4-thiazolylmethoxy)benzyl]-4-phenyl-3-pyrrolyl]propionate | 601 mg, yield: 85% | C(C)OC=1C=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C(C1)OCC=1N=C(SC1)C1=CC=CC=C1 | C34H34N2O4S
